US07582787B2
Referring to 3,5-di-tert-butylsalicylic acid as an example salicylic acid derivative, it is possible to selectively synthesize zinc 3,5-di-tert-butylsalicylate by adding drop by drop a solution containing a zinc provider to a solution of 3,5-di-tert-butylsalicylic acid in alkali to cause the reaction. For example, a sufficient amount of an alkaline aqueous solution is added to 2 mol of 3,5-di-tert-butylsalicylic acid (produced from the starting material 2,4-di-tert-butylphenol by the Kolbe-Schmitt reaction) and dissolved with heating. Separately, an aqueous solution incorporating 1 mol of a zinc provider is prepared. While heating this aqueous solution, the aforementioned aqueous solution of 3,5-di-tert-butylsalicylic acid is added drop by drop, and the reaction is carried out with heating and pH adjustment; after completion of the reaction, the reaction mixture is filtered and the cake filtered off is washed with water and dried. Examples of zinc providers include, but are not limited to, zinc sulfate, zinc chloride and zinc acetate.

reactant | 3,5-di-tert-butylsalicylic acid | C(C)(C)(C)C1=C(C(C(=O)O)=CC(=C1)C(C)(C)C)O | C15H22O3
reactant | salicylic acid | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | 3,5-di-tert-butylsalicylic acid | 2 mol | C(C)(C)(C)C1=C(C(C(=O)O)=CC(=C1)C(C)(C)C)O | C15H22O3
catalyst | zinc 3,5-di-tert-butylsalicylate | C(C)(C)(C)C1=C(C(C(=O)[O-])=CC(=C1)C(C)(C)C)O.[Zn+2].C(C)(C)(C)C1=C(C(C(=O)[O-])=CC(=C1)C(C)(C)C)O
catalyst | zinc | [Zn] | Zn
product | 2,4-di-tert-butylphenol | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
